US07592362B2
1-Chloroethyl [2-(methylsulfonyl)ethyl]carbamate
To a solution of 2-(methylsulfonyl)ethanamine (176 mg, 1.1 mmol) and N,N-diisopropylethylamine (0.38 ml, 2.2 mmol) in anhydrous dichloromethane (2 ml), at 0° C., was added dropwise 3-chloropropanoyl chloride (0.12 ml, 1.1 mmol). The reaction mixture was allowed to warm to room temperature and stirred for 62 h. To the mixture was added water (5 ml) and the two layers were separated. The aqueous layer was extracted with dichloromethane (2×5 ml) and the combined organic layers were dried (MgSO4) and concentrated in vacuo to give the title compound (260 mg).

reactant | 2-(methylsulfonyl)ethanamine | 1.1 mmol, 176 mg | CS(=O)(=O)CCN | C3H9NO2S
reactant | N,N-diisopropylethylamine | 2.2 mmol, 0.38 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-chloropropanoyl chloride | 1.1 mmol, 0.12 ml | ClCCC(=O)Cl | C3H4Cl2O
reactant | water | 5 ml | O | H2O
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 1-Chloroethyl [2-(methylsulfonyl)ethyl]carbamate | 260 mg | CS(=O)(=O)CCNC(OC(C)Cl)=O | C6H12ClNO4S
